US05112998
The procedure of Example 12 was repeated except that 44.6 mg (0.1 mmole) of 20-(1,3-dioxolan-2-yl)-1α,2 -epoxy-7α-hydroxypregn-5-en-3β-yl acetate was used in lieu of 49.0 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate to give 37.8 mg of 20-(1,3-dioxolan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate (yield: 75%)

reactant | 20-(1,3-dioxolan-2-yl)-1α,2 -epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 0.1 mmole, 44.6 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCCO5)[C@]4(CC[C@@H]3[C@]2([C@@H]2C1O2)C)C)O | C26H38O6
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 49.0 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
product | 20-(1,3-dioxolan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate | 37.8 mg, yield: 75% | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCCO5)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(=O)OC | C28H40O8
